US07179943B2
N-[4-chloro-3-(trifluoromethyl)phenyl]-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide
A solution of bicyclo[3,2,1]octane-2,4-dione (0.552 g, 4.0 mmole), 4-chloro-3-(trifluoromethyl)phenyl isocyanate (1.77 g, 8.0 mmole), and 60% sodium hydride in mineral oil (0.176 g, 4.4 mmole) in dimethylformamide (150 mL) was stirred at 0° C. for 1 hour and heated at 45–50° C. under nitrogen for 24 hours. After cooling, the mixture was diluted with H2O and treated with 2N HCl until the mixture was clear. The clear solution was then extracted with dichloromethane. The organic layer was washed with H2O again, dried over anhydrous magnesium sulfate, and concentrated on a rotary evaporator. The residue was purified by chromatography on silica gel (30% dichloromethane/hexane) to give a clear oil as the expected product. The oily product was crystallized with ethyl acetate/hexane in a dry ice bath to afford the title compound as a white solid, mp=136–137° C.; MS (−) ESI m/z=358 (M−H)−. Analysis for C16H13ClF3NO3 Calculated: C: 53.42; H, 3.64; N, 3.89. Found: C: 53.37; H, 3.57; N, 3.67.

reactant | bicyclo[3,2,1]octane-2,4-dione | 4.0 mmole, 0.552 g | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 8.0 mmole, 1.77 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | N-[4-chloro-3-(trifluoromethyl)phenyl]-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C1C(C2CCC(C1=O)C2)=O)C(F)(F)F | C16H13ClF3NO3
